US04232039
(d) 4-(5-Chloro-4-cyclohexyl-2-methoxyphenyl)-butyric acid methylester
7.8 g of 4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid are dissolved in 700 ml of anhydrous methanol and saturated whilst cooling with HCl gas. After 48 hours and with the exclusion of moisture, the mixture is evaporated under vacuum and the residue dissolved in 400 ml of methylene chloride. 2.4 ml of sulphuryl chloride and 500 ml of silica gel are added whilst cooling and stirring. After stirring for 18 hours at 20°, the mixture is filtered and the residue is concentrated until dry.

reactant | 4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid | 7.8 g | C1(CCCCC1)C1=CC(=C(C=C1)CCCC(=O)O)OC | C17H24O3
reactant | HCl | Cl | ClH
reactant | methanol | 700 ml | CO | CH4O
product | 4-(5-Chloro-4-cyclohexyl-2-methoxyphenyl)-butyric acid methylester | COC(CCCC1=C(C=C(C(=C1)Cl)C1CCCCC1)OC)=O | C18H25ClO3
